US08097610B2
To a suspension of lithium aluminium hydride (0.87 g; 22.9 mmol) in anhydrous THF (20 ml) was added dropwise a solution of 1-benzyl-3-ethylpiperazine-2,5-dion (1.50 g; 6.46 mmol) in anhydrous THF (10 ml) under ice-cooling. After stirring at room temperature for 18 hours, a mixture of water (0.25 ml) and THF (5 ml) and 2N-aqueous sodium hydroxide solution (0.5 ml) were added dropwise sequentially under ice-cooling. The mixture was stirred at room temperature for 1 hour. After filtration of aluminium hydroxide, the filtrate was condensed under reduced pressure. To the residue were added ethyl acetate and brine to separate. The organic layer was dried over anhydrous sodium sulphate. The solvent was evaporated under reduced pressure to give 1-benzyl-3-ethylpiperazine as pale yellow oil (1.29 g; 98%).

reactant | lithium aluminium hydride | 22.9 mmol, 0.87 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzyl-3-ethylpiperazine-2,5-dion | 6.46 mmol, 1.50 g | C(C1=CC=CC=C1)N1C(C(NC(C1)=O)CC)=O | C13H16N2O2
reactant | water | 0.25 ml | O | H2O
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3-ethylpiperazine | C(C1=CC=CC=C1)N1CC(NCC1)CC | C13H20N2
